US08803420B2
A reaction vessel was charged with 180 g of 1-bromo-4-[2-(2-methoxyvinyl)phenyl]naphthalene and 1.0 L of dichloromethane. 25 mL of methanesulfonic acid was added to the mixture at room temperature with stirring. The mixture was stirred at room temperature for 8 hours. After completion of the reaction, 1 L of a 10% potassium carbonate aqueous solution was added to the mixture. After removing the aqueous phase, the organic phase was washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. After removing magnesium sulfate by filtration, the organic phase was concentrated. The residue was purified by silica gel column chromatography to obtain 24.4 g of the target 5-bromobenzo[c]phenanthrene (yield: 15%).

reactant | 1-bromo-4-[2-(2-methoxyvinyl)phenyl]naphthalene | 180 g | BrC1=CC=C(C2=CC=CC=C12)C1=C(C=CC=C1)C=COC | C19H15BrO
reactant | methanesulfonic acid | 25 mL | CS(=O)(=O)O | CH4O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1.0 L | ClCCl | CH2Cl2
product | 5-bromobenzo[c]phenanthrene | yield: 15% | BrC1=CC=2C=CC=3C=CC=CC3C2C2=C1C=CC=C2 | C18H11Br
